US06201027B1
4-Chloro-3-(methylsulfonyl)benzaldehyde
4-Chloro-3-(methylsulfonyl)benzyl alcohol (1.0 g) was dissolved in dichloromethane (20 mL) and then active manganese(IV) oxide (4.2 g) was added and the mixture was stirred for 15 min at 22-28° C. The solid was removed by filtration and the filtrate was evaporated to dryness (yield 0.76 g). 1H-NMR (400 MHz, DMSO-d6) d=3.44 (s, 3H), 8.00 (d, J=8.2 Hz, 1H), 8.23 (dd, J=8.2 Hz, 2.2 Hz, 1H), 8.53 (d, J=2.2 Hz, 1H), 10.12 (s, 1H).

reactant | 4-Chloro-3-(methylsulfonyl)benzyl alcohol | 1.0 g | ClC1=C(C=C(CO)C=C1)S(=O)(=O)C | C8H9ClO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | manganese(IV) oxide | 4.2 g | [O-2].[Mn+4].[O-2]
product | 4-Chloro-3-(methylsulfonyl)benzaldehyde | ClC1=C(C=C(C=O)C=C1)S(=O)(=O)C | C8H7ClO3S
